US04758563
b. α-[(2,2-Dimethylpropoxy)methyl]-1-pyrrolidineethanol
To a stirred mixture of 92.53 g (1.0 m) of epichlorohydrin and 88.15 g (1.0 m) of neopentyl alcohol was added 0.26 g (0.001 m) of stannic chloride. The reaction temperature rose to about 60° C. then exothermed to about 130° C. in a few seconds. The reaction mixture was stirred until the temperature receded to about 40° C. then 71.12 g (1.0 m) of pyrrolidine was added. The reaction mixture was stirred and heated to about 95° C. for 1 hr. After cooling the reaction mixture to RT, a mixture of 80 g of 50% sodium hydroxide solution and 80 g of ice was added. The reaction mixture was stirred and heated to 90° C. for 0.5 hr then cooled to RT. The reaction mixture was partitioned between 400 ml of ice water and 400 ml of ether. The organic layer was dried and concentrated in vacuo to give 181 g of oil. The oil was distilled (89°-115° C. at 0.25 mm) to give 136 g of oil that crystallized on standing, 99.1% pure by g.c.

reactant | epichlorohydrin | 92.53 g | C(Cl)C1CO1 | C3H5ClO
reactant | neopentyl alcohol | 88.15 g | C(C(C)(C)C)O | C5H12O
reactant | pyrrolidine | 71.12 g | N1CCCC1 | C4H9N
reactant | sodium hydroxide | 80 g | [OH-].[Na+]
product | α-[(2,2-Dimethylpropoxy)methyl]-1-pyrrolidineethanol | 181 g | CC(COCC(CN1CCCC1)O)(C)C | C12H25NO2
